US07786110B2
To a 0° C. solution of 5-(3-dimethylamino-acryloyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (180 mg, 0.4737 mmol) in MeOH (3 mL) was added hydroxyl-amine-O-sulfonic acid (3 eq.) in one portion. The reaction mixture was stirred for 40 minutes, during which time the temperature was allowed to rise to room temperature. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was subjected to Preparative HPLC to give 83 mg, (50%) of 5-isoxazol-5-yl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide, MS (M+H)=351.

reactant | 5-(3-dimethylamino-acryloyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 0.4737 mmol, 180 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)C(C=CN(C)C)=O)C1=CC=C(C=C1)C | C23H28N2O3
reactant | hydroxyl-amine-O-sulfonic acid | 3 eq. | OOS(=O)(=O)N | H3NO4S
solvent | MeOH | 3 mL | CO | CH4O
product | 5-isoxazol-5-yl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 50% | COCC(C)NC(=O)C=1C=C(C=C(C1)C1=CC=NO1)C1=CC=C(C=C1)C | C21H22N2O3
